US08957070B2
N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-5-fluoro-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
A mixture of triphenylphosphine oxide (522 mg), trifluoromethanesulfonic anhydride (0.158 mL), and dichloromethane (10 mL) was stirred for 15 min under ice-cooling. Then, 5-fluoro-7-[methyl(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide (205 mg) was added, and the mixture was stirred for 3 hr under ice-cooling. The reaction solution was poured into aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The aqueous layer was extracted with dichloromethane, and the combined dichloromethane layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=2:8-5:5), and the obtained crystals were recrystallized from ethyl acetate-hexane to give the title compound (92 mg, yield 75%) as colorless prism crystals. melting point 188-189° C.

reactant | triphenylphosphine oxide | 522 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.158 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 5-fluoro-7-[methyl(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide | 205 mg | FC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H30FN3O3S3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-5-fluoro-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 92 mg, yield 75% | S1C(=NCC1)C=1NC2=C(C=C(C=C2C1)F)N(S(=O)(=O)C=1SC=CC1)C | C16H14FN3O2S3
